US07354936B2
To a solution of 2,4-difluorophenol (3.71 g; 29 mmol) and 2-bromo-1-(4-methylsulfanylphenyl)ethanone (7.00 g; 29 mmol) in methylene chloride (50 ml) was added a solution of potassium carbonate (5.91 g; 43 mmol) and tetrabutylammonium hydrogensulfate (0.48 g; 1.4 mmol) in water (20 ml). The mixture was stirred at room temperature for 16 hours. Water (100 ml) was added, the organic phase was decanted, and the basic phase was extracted with methylene chloride (2×100 ml). The organic solution was dried (Na2SO4) and the solvent removed under reduced pressure. The resulting solid was washed with ethyl ether. 2-(2,4-Difluorophenoxy)-1-(4-methylsulfanyl phenyl)ethanone was obtained (6.60 g, 76%) as an off-white solid. b) A solution of 80% magnesium monoperoxyphthalate hexahydrate (15.26 g; 25 mmol) in water (20 ml) was added to a solution of the above compound (6.60 g; 22 mmol) in methylene chloride (100 ml). The mixture was stirred at room temperature for 16 hours. The reaction was poured into saturated solution of sodium bicarbonate (200 ml) and extracted with methylene chloride (3×100 ml). The organic phase was dried (Na2SO4) and the solvent removed under reduced pressure. 2-(2,4-Difluorophenoxy)-1-(4-methanesulfonylphenyl)ethanone was obtained (4.97 g, 89%) as an off-white solid.

reactant | 2,4-difluorophenol | 29 mmol, 3.71 g | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | 2-bromo-1-(4-methylsulfanylphenyl)ethanone | 29 mmol, 7.00 g | BrCC(=O)C1=CC=C(C=C1)SC | C9H9BrOS
reactant | potassium carbonate | 43 mmol, 5.91 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium hydrogensulfate | 1.4 mmol, 0.48 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 20 ml | O | H2O
solvent | Water | 100 ml | O | H2O
product | 2-(2,4-Difluorophenoxy)-1-(4-methylsulfanyl phenyl)ethanone | FC1=C(OCC(=O)C2=CC=C(C=C2)SC)C=CC(=C1)F | C15H12F2O2S
